US07560597B2
(R)-1-(2′,4′-Dichloro-biphenyl-4-yl)-hex-5-en-1-ol
(+)DIP-Chloride (2.4 g) was dissolved in dry ether (10 mL) and cooled in an ethanol/CO2 bath. 1-(2′,4′-Dichloro-biphenyl-4-yl)-hex-5-en-1-one (1 g) was dissolved in dry ether (5 mL) and added dropwise to the DIP solution. The mixture was allowed to warm to room temperature and stirred for 24 hours. Petrol (50 mL) was added and the organic layer was separated. The aqueous layer was diluted with water and extracted with a further 50 mL petrol. The organics were combined, dried and evaporated to give a thick oil. It was not possible to obtain a pure sample by column chromatography, but no trace of starting material remained, as assessed by thin layer chromatography.

reactant | (+)DIP-Chloride | 2.4 g | B([C@H]1C[C@@H]2C[C@H]([C@@H]1C)C2(C)C)([C@H]3C[C@@H]4C[C@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | 1-(2′,4′-Dichloro-biphenyl-4-yl)-hex-5-en-1-one | 1 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)C(CCCC=C)=O | C18H16Cl2O
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
product | (R)-1-(2′,4′-Dichloro-biphenyl-4-yl)-hex-5-en-1-ol | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)[C@@H](CCCC=C)O | C18H18Cl2O
